US07196104B2
Preparation CH: 5-Cyano-indole-1-carboxylic acid tert-butyl ester
To a solution of 5-cyanoindole (9.76 g, 68.7 mmol), 100 mL of anhydrous CH3CN, and DMAP (423 mg, 3.5 mmol) was added di-tert-butyl dicarbonate (15.78 g, 72.3 mmol). The resulting solution was stirred for 18 h then concentrated in vacuo. The resulting solid was redissolved in EtOAc (350 mL) and washed with 1N HCl (aq) (2×25 mL). The acidic aqueous solution was extracted with EtOAc (2×). The combined EtOAc layers were washed with brine, dried over MgSO4, and concentrated in vacuo to give a light yellow solid. MS m/z: 243 (M+1). Calc'd for C14H14N2O2-242.47.

reactant | 5-cyanoindole | 68.7 mmol, 9.76 g | C(#N)C=1C=C2C=CNC2=CC1 | C9H6N2
reactant | di-tert-butyl dicarbonate | 72.3 mmol, 15.78 g | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
catalyst | DMAP | 3.5 mmol, 423 mg | CN(C)C=1C=CN=CC1 | C7H10N2
solvent | CH3CN | 100 mL | CC#N | C2H3N
product | 5-Cyano-indole-1-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1C=CC2=CC(=CC=C12)C#N | C14H14N2O2
